US05981539
(±)-trans-N-tert-Butoxycarbonyl-4-(4-phenoxyphenoxy)-3-(2-methoxy-1-ethoxy)piperidine.
To a solution of (±)-trans-N-tert-butoxycarbonyl-3-hydroxy-4-(4-phenoxyphenoxy)-piperidine (1.47 g, 3.8 mmol) in dry DMF (30 ml) was added sodium hydride (300 mg 60% suspension in mineral oil, 4.2 mmol). After 1 h, 2-bromoethyl methyl ether (1.7 g, 7.6 mmol) was added. After 6 days water was added and the product was extracted with ethyl acetate (2×30 ml). After drying and evaporation the crude product was obtained as an oil.

reactant | (±)-trans-N-tert-butoxycarbonyl-3-hydroxy-4-(4-phenoxyphenoxy)-piperidine | 3.8 mmol, 1.47 g | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](CC1)OC1=CC=C(C=C1)OC1=CC=CC=C1)O | C22H27NO5
reactant | sodium hydride | 4.2 mmol, 300 mg | [H-].[Na+]
reactant | 2-bromoethyl methyl ether | 7.6 mmol, 1.7 g | COCCBr | C3H7BrO
reactant | water | O | H2O
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | (±)-trans-N-tert-Butoxycarbonyl-4-(4-phenoxyphenoxy)-3-(2-methoxy-1-ethoxy)piperidine | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](CC1)OC1=CC=C(C=C1)OC1=CC=CC=C1)OCCOC | C25H33NO6
